US04778790
t-Butyl rel-α-[6(R)-(1-ethoxycarbonyl-5-phthalimidopentylamino)-5-oxo-2(R)-phenylperhydro-1,4-thiazepin-4-yl]acetate
By following the same procedure as described in Example 4, a condensation reaction was carried out between 336 mg of t-butyl rel-α-[6(R)-amino-5-oxo-2(R)-phenylperhydro-1,4-thiazepin-4-yl]acetate and 552 mg of ethyl 2-bromo-6-phthalimidohexanoate in the presence of 318 mg of sodium carbonate to give two diastereoisomers. These isomers were separated by column chromatography through silica gel using a mixture of cyclohexane and ethyl acetate in the ratio 5:1 by volume as the eluent.

reactant | t-butyl rel-α-[6(R)-amino-5-oxo-2(R)-phenylperhydro-1,4-thiazepin-4-yl]acetate | 336 mg | N[C@@H]1C(N(C[C@H](SC1)C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C17H24N2O3S
reactant | ethyl 2-bromo-6-phthalimidohexanoate | 552 mg | BrC(C(=O)OCC)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H18BrNO4
reactant | sodium carbonate | 318 mg | C([O-])([O-])=O.[Na+].[Na+]
product | t-Butyl rel-α-[6(R)-(1-ethoxycarbonyl-5-phthalimidopentylamino)-5-oxo-2(R)-phenylperhydro-1,4-thiazepin-4-yl]acetate | C(C)OC(=O)C(CCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@@H]2C(N(C[C@H](SC2)C2=CC=CC=C2)CC(=O)OC(C)(C)C)=O | C33H41N3O7S
